US04820705
Methyl 4-(2-amino-indan-5-yl)-butyrate
3 ml of perchloric acid and 3 g of 10% palladium-on-charcoal are added to 15 g (52.8 mmol) of methyl 4-(2-amino-indan-5-yl)-4-oxobutyrate in 200 ml of glacial acetic acid and the mixture is hydrogenated at 50° C. and a hydrogen pressure of 5 bar. When the calculated amount of hydrogen has been absorbed, the catalyst is filtered off, the filtrate is evaporated, sodium hydroxide is added to the residue and the reaction product is extracted with ether. After drying and evaporation. The desired product is obtained in the form of an oil.

reactant | perchloric acid | 3 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | methyl 4-(2-amino-indan-5-yl)-4-oxobutyrate | 52.8 mmol, 15 g | NC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C14H17NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 3 g | [Pd] | Pd
product | Methyl 4-(2-amino-indan-5-yl)-butyrate | NC1CC2=CC=C(C=C2C1)CCCC(=O)OC | C14H19NO2
